US08802864B2
a) 2-[(4-bromo-2-formylphenyl)oxy]propanoic Acid
A solution of 5-bromo-2-hydroxybenzaldehyde (4.97 mmol) in acetonitrile (30 mL) was treated with potassium carbonate (14.92 mmol) and ethyl 2-bromopropanoate (5.97 mmol). The resulting mixture was stirred at room temperature overnight. Analysis by LCMS indicated the formation of the desired intermediate ester, and the reaction mixture was concentrated to dryness in vacuo. The crude material was dissolved in a 3:1 methanol:water mixture (20 mL) and was heated to 50° C. with stirring. The reaction was then cooled to room temperature and was acidified to pH˜3 using 1N aq HCl. The methanol was removed in vacuo and the resulting aqueous suspension was diluted with water (100 mL). The solution was extracted with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting beige solid was used without further purification (1.38 grams, 80% yield). MS(ES)+ m/e 273/275 [M+H]+ (bromide isotope pattern).

reactant | 5-bromo-2-hydroxybenzaldehyde | 4.97 mmol | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | potassium carbonate | 14.92 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropanoate | 5.97 mmol | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-[(4-bromo-2-formylphenyl)oxy]propanoic Acid | 80% yield | BrC1=CC(=C(C=C1)OC(C(=O)O)C)C=O | C10H9BrO4
